US06187781B1
2-[N-(2-Bromo-4-isopropylphenyl)-N-ethylamino]-4-[4-(thiophen-2-yl)-4-hydroxypiperidin-1-yl]-6-methylpyrimidine (166 mg) was stirred in 0.5 ml of99% formic acid at room temperature for 2 hours. The reaction solution was poured into a saturated aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The extract was washed successively with a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution, and dried over anhydrous sodium sulfate. The desiccant was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: hexane/ethyl acetate=5/1) to give 132 mg of 2- [N- (2-bromo-4-isopropylphenyl) -N-ethylamino] -4-[4-(thiophen-2-yl)-1,2,3,6-tetrahydropyridin-1-yl]-6-methylpyrimidine.

reactant | 2-[N-(2-Bromo-4-isopropylphenyl)-N-ethylamino]-4-[4-(thiophen-2-yl)-4-hydroxypiperidin-1-yl]-6-methylpyrimidine | 166 mg | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)N1CCC(CC1)(O)C=1SC=CC1)C | C25H31BrN4OS
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | formic acid | 0.5 ml | C(=O)O | CH2O2
product | 2- [N- (2-bromo-4-isopropylphenyl) -N-ethylamino] -4-[4-(thiophen-2-yl)-1,2,3,6-tetrahydropyridin-1-yl]-6-methylpyrimidine | 132 mg | BrC1=C(C=CC(=C1)C(C)C)N(CC)C1=NC(=CC(=N1)N1CCC(=CC1)C=1SC=CC1)C | C25H29BrN4S
